US04174405
2,3-Diphenyl-5-(3-fluoro-4-methoxyphenyl)thiophene
In a 1-liter autoclave were place 30 g (82.8 mmoles) of 1,2-diphenyl-4-(3-fluoro-4-methoxyphenyl)butane-1,4-dione, 100 ml of xylene, 18.4 g (41.4 mmoles) of phosphorus pentasulfide and 130 g of hydrogen sulfide. The vessel was heated 205 minutes at 155°-163` C. (1145-1235 psig.). The reactor was cooled and the hydrogen sulfide vented into a solution of 200 g of sodium hydroxide in 2 l of water. The semisolid residue was stirred with 150 ml of absolute ethanol. Filtration gave a first crop of 14.7 g (49.3%) m.p. 122°-125° C. Chilling the filtrate and refiltration gave a second crop of 10.5 g (35.2%), m.p. 118°-122° C. The two crops were combined and recrystallized from a mixture of 30 ml of dioxane and 70 ml of absolute ethanol to give 21.5 g (72.0%) of colorless plates, m.p. 123°-125° C.

reactant | 1,2-diphenyl-4-(3-fluoro-4-methoxyphenyl)butane-1,4-dione | 82.8 mmoles, 30 g | C1(=CC=CC=C1)C(C(CC(=O)C1=CC(=C(C=C1)OC)F)C1=CC=CC=C1)=O | C23H19FO3
reactant | phosphorus pentasulfide | 41.4 mmoles, 18.4 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | hydrogen sulfide | 130 g | S | H2S
reactant | sodium hydroxide | 200 g | [OH-].[Na+]
solvent | water | 2 l | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-Diphenyl-5-(3-fluoro-4-methoxyphenyl)thiophene | C1(=CC=CC=C1)C=1SC(=CC1C1=CC=CC=C1)C1=CC(=C(C=C1)OC)F | C23H17FOS
